US04001426
2-[4'-(3-Diethylaminopropoxy)phenyl]-3-(3',5'-dimethylbenzoyl)benzofuran
To a suspension of 2.0 g. (6.2 mmol.) of the hydrochloride salt of 2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran in 10 ml. of nitrobenzene was added a solution of 1.84 g. (13.9 mmol.) of aluminum chloride in 20 ml. of nitrobenzene. The solution was cooled to 0° and 1.24 g. (7.4 mmol.) of 3,5-dimethylbenzoyl chloride was added. The reaction mixture was stirred at 0° for 30 minutes then at 25° for 1.5 hours, after which time it was poured into water and the nitrobenzene was removed by steam distillation. The aqueous solution was extracted with ether, made alkaline with aqueous sodium carbonate solution and again extracted with ether. The etheral solution was dried (MgSO4) and concentrated to give the title compound.

reactant | 2-[4'-(3-diethylaminopropoxy)phenyl]benzofuran | C(C)N(CCCOC1=CC=C(C=C1)C=1OC2=C(C1)C=CC=C2)CC | C21H25NO2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | aluminum chloride | 13.9 mmol | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3,5-dimethylbenzoyl chloride | 7.4 mmol | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | water | O | H2O
product | 2-[4'-(3-Diethylaminopropoxy)phenyl]-3-(3',5'-dimethylbenzoyl)benzofuran | C(C)N(CCCOC1=CC=C(C=C1)C=1OC2=C(C1C(C1=CC(=CC(=C1)C)C)=O)C=CC=C2)CC | C30H33NO3
